US04157334
A solution of methyl 3-acetyl-4-hydroxy-benzoate (6 g) and methyl 2-methoxy-5-methyl-benzoate (12 g) in dioxane (40 ml) was slowly added under stirring at room temperature to a suspension of sodium hydride 50% (4.5 g) in dioxane (40 ml). The mixture was kept under stirring for 3 hours at 80° C., cooled, then diluted with petroleum ether (100 ml), and filtered. The collected precipitate was dissolved in water, acidified with acetic acid and extracted with ethyl-acetate. The organic phase was washed with potassium carbonate 5% and water, then evaporated to dryness and crystallized from ethanol to give (2-hydroxy-5-carbomethoxy-benzoyl)-(2-methoxy-5-methyl-benzoyl)-methane (7.9 g; m.p.=145°-147° C.), which was then refluxed for 15 minutes with 99% formic acid (28 ml). After cooling and dilution in water and filtration, the collected precipitate was crystallized from acetone to obtain 6-carbomethoxy-2'-methoxy-5'-methyl-flavone (6 g), m.p.=154°-156° C., which was hydrolyzed with a 1% solution of potassium hydroxide (100 ml) in 95% ethanol at reflux temperature for 30 minutes. The mixture was cooled, acidified with 23% HCl to pH=3, and the precipitate was filtered, washed with ethanol 95% and water so obtaining, after crystallization from ethanol, 6-carboxy-2'-methoxy-5'-methyl-flavone (5.3 g), m.p.=246°-247° C.

reactant | methyl 3-acetyl-4-hydroxy-benzoate | 6 g | C(C)(=O)C=1C=C(C(=O)OC)C=CC1O | C10H10O4
reactant | methyl 2-methoxy-5-methyl-benzoate | 12 g | COC1=C(C(=O)OC)C=C(C=C1)C | C10H12O3
reactant | sodium hydride | 4.5 g | [H-].[Na+]
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | (2-hydroxy-5-carbomethoxy-benzoyl)-(2-methoxy-5-methyl-benzoyl)-methane | 7.9 g | OC1=C(C(=O)CC(C2=C(C=CC(=C2)C)OC)=O)C=C(C=C1)C(=O)OC | C19H18O6
